US04435404
Into 300 ml of chloroform were added 9.9 g of 6-(3-carboxypropoxy)carbostyril and 6.5 ml of DBU. The outside of the reaction vessel containing the abovementioned mixture was ice-cooled and 5.7 ml of isobutyl chloroformate was added dropwise under stirring condition. After the addition operation, stirring was continued for 1 hour at a room temperature and 5.4 g of 2-ethylaminopyridine was added dropwise, then the reaction was continued for 5 hours under stirring condition. The reaction mixture was washed with a diluted NaHCO3 aqueous solution and water, and was concentrated. The residue thus obtained was treated by a silica-gel column chromatography (solvent used was a mixture of chloroform:methanol=20:1) and the elute thus obtained was concentrated then was recrystallized from methanol, to obtain 4.5 g of 6-{3-[N-ethyl-N-(2-pyridyl)aminocarbonyl]propoxy}carbostyril in the form of colorless needle-like crystals. Melting point: 148°-149° C.

reactant | 6-(3-carboxypropoxy)carbostyril | 9.9 g | C(=O)(O)CCCOC=1C=C2C=CC(NC2=CC1)=O | C13H13NO4
reactant | DBU | 6.5 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | isobutyl chloroformate | 5.7 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-ethylaminopyridine | 5.4 g | C(C)NC1=NC=CC=C1 | C7H10N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-{3-[N-ethyl-N-(2-pyridyl)aminocarbonyl]propoxy}carbostyril | 4.5 g | C(C)N(C(=O)CCCOC=1C=C2C=CC(NC2=CC1)=O)C1=NC=CC=C1 | C20H21N3O3
